Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"It has seemed like a better and better option
to kill myself."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ yo F with a PMHx significant for depression, 
who arrived via ambulance and presents with increasing 
depression and suicidal ideation with
plan.

On interview, she reports that she went in to talk to the ___ 
of student affairs at the ___ school today.  She notes not going 
to classes for ~ 1 week and professors have reached out to her 
___. The ___ referred her to ___ in Behavioral med and 
he recommended that she come into the hospital.  He counseled 
her that she seemed to be losing her protective coping skills.  
She
notes that recently it "has seemed like a better and better 
option to kill myself".

She reports increasing depression for ~1 month in the setting of 
___ year of distress/depression since entering law school.  She 
describes her depression as "numbness" and states that it is 
"very difficult to see positives".  She notes sleepnig a lot, 
but being poorly rested because of frequent awakening.  She 
notes having stressful dreams with initiation of Lexapro in 
___  with non-restful sleep.  She notes that she has not 
been able to "do anything" that requires engagement or thought.  
She has not been able to buy shoes and socks and simple tasks.  
She endorses poor PO intake, but continuing to eat breakfast.  
She also endorses a year of eating disorder behaviors with 
binging/purging and restricting (last ___ year ago)  

She nots that she woke up one morning ~1 month ago not feeling 
as scared of the aftermath of suicide.  Prior to this a major 
barrier to suicide was her fears about what happens to the 
consciousness after death.  She states that she reached out to 
her psychiatrist and therapist to discuss this increasing
distress and suicidal thoughts and they have been trying to 
manage it as an outpatient, but she notes continued planning. 
She states that at this point that point it is mostly just her 
parents that are keeping her from attempting.  

She reports no prior suicide attempts, but thinking about it for 
a long time.  She notes from ___ yo "playing with the idea of 
suicide in her head.  At that time, she felt like she was losing 
her identity in school.  She stated the thoughts came back again 
in law school.  She thinks her suicidality and depression 
relates to unhappiness with her life choices.   She reports that 
ideas will pop in her head.  She notes that she has been 
eliminating
options and narrowing down methods.  She is now thinking of 
drowning herself in a body of water and she thinks the ___ 
is the closest, but states she hasn't planned or rehearsed 
beyond the obvious (needing to weigh herself down).  She has 
eliminated doing anything in her apartment because she does not 
want her roommate to have to deal with it.  She used to also 
think about
throwing herself in front of cars, but does not want to "mess up 
someone's car".

She endorses self-injury last yesterday.  She endorses cutting 
her thighs "deeply".  She reports feeling uncertain why she is 
doing this.  She states she feels like it is "to get some sort 
of release from pressure that she hasn't been able to address".  
She reports cutting ~ month.   She reports previously 
self-scratching from ___, and restarted in her first year of 
law school.  He also pricks with pens. She would sometimes burn 
her fingertips. 
She reports when she kept a journal to reduce behavior that her 
suicidal thoughts increased.

Psychiatric ROS:
Depression - endorses symptoms including anhedonia, 
hopelessness, guilt (more like guilty that I feel this way), 
fatigue, difficulty concentrating, changes in appetite (didn't 
eat), and sleep disturbances (sleeping "a lot" for the last 
year).  Notable functional decline.
Psychosis - denies symptoms including delusions (persecutory, 
grandiose, thought broadcasting/insertion/withdrawal) or 
hallucinations (auditory, visual, olfactory, or tactile). 
Mania- denies symptoms including elevated mood or irritability, 
marked increases in goal-directed behavior, racing thoughts, a 
decreased need for sleep, or social/economic indiscretion
Anxiety - unclear performance anxiety ("shut down", endorses 
symptoms including panic attacks (roaring in ears, start to 
black out) or agoraphobia. 
Eating Disorder - she has been focusing on eating breakfast, but 
not tracking calories or quantity (late ___ purging a 
lot), history of restricting (in law school) with binge/purge
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Dx: Depression 
Hospitalizations: None 
Current treaters and treatment:  therapist - ___ 
___
(Therapist in ___.  ___, psychiatrist - ___ ___ 
Medication and ECT trials: Lexapro
Self-injury/Suicide attempts: long history of SIB as per HPI
Harm to others: Denies
Access to weapons: Denies access to guns or knives (one dull
knife for opening packages), kitchen knives (never tried to cut
with them)

PAST MEDICAL HISTORY:
None 

 
Social History:
SUBSTANCE ABUSE HISTORY:
EtOH: none currently, history of blackouts ___ year of law
school), 1 drink/month ago - cutting w razor blades when
intoxicated
Illicits: MJ - occassionally socially (every couple months), a
little ___ once years ago  
Tobacco: ___ cigarettes/day 
Caffeine: ___ cups 

FORENSIC HISTORY:
___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Fam Dx: Unsure, mother - seeing a therapist 
Fam Hospitalizations: denies
Fam Treatment Hx/Med Trials: mother - prozac,xanax ___ months) 
Fam Hx Suicide: denies 

 
Physical Exam:
EXAM: 
*VS:  BP:110/76  HR: 71 temp: 97.9  resp: 18  O2 sat: 100% RA    

 
Neurological:  
 *station and gait: narrow-based, steady gait without ataxia
 *tone and strength: Patient moves all 4 extremities
symmetrically, full apparent strength
 cranial nerves: CN II-XII grossly normal 
 abnormal movements: no tics, tremors, evidence of EPS
 frontal release: not assessed 

Cognition: 
 Wakefulness/alertness: alert and engaged in interview 
 *Attention (MOYB): correctly lists MOYB with no errors 
 *Orientation: oriented x3 (self, location and date) 
 Executive function (go-no go, Luria, trails, FAS): not assessed 

 *Memory:   Intact to ___ immediate recall (apple, table, 
___,
___ delayed recall  
 *Fund of knowledge:  average - able to state a play by
___, able to identify the first president of the ___,
unable to identify governor of ___ or mayor of ___ 
 Calculations:  correctly states 7 quarters in $1.75
 Abstraction:  states "the grass is always greener on the other
side" means "envy right" 
 Visuospatial: no gross deficits 
 *Speech: normal tone, volume, rate and prosody
 *Language: fluent ___ 
 
Mental Status:
 *Appearance:  Pt appears stated age, adequate grooming
 Behavior:  calm and cooperative, frequently tearful 
 *Mood and Affect:  "apathetic" , dysthymic - patient frequently
tearful despite attempts to smile and appear bright 
 *Thought process / *associations:  linear, sequential and
goal-oriented 
 *Thought Content: +SI, denies HI, denies AVH 
 *Judgment and Insight:  fair/fair

 
Pertinent Results:
___ 09:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:15PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-2* PH-7.0 LEUK-NEG
___ 09:15PM URINE  RBC-9* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-5
___ 09:15PM URINE  MUCOUS-MANY
___ 06:00PM   GLUCOSE-87 UREA N-8 CREAT-0.9 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-26 ANION GAP-12
___ 06:00PM   estGFR-Using this
___ 06:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:00PM   WBC-7.1 RBC-4.22 HGB-13.6 HCT-39.7 MCV-94 
MCH-32.2* MCHC-34.3 RDW-11.8 RDWSD-40.4
___ 06:00PM   NEUTS-65.1 ___ MONOS-4.9* EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-4.64 AbsLymp-2.06 AbsMono-0.35 
AbsEos-0.03* AbsBaso-0.03
___ 06:00PM   PLT COUNT-241
 
Brief Hospital Course:
PSYCHIATRIC 
#) On admission to the inpatient psychiatric unit, ___ 
reported feeling anxious about being hospitalized, and was 
tearful when discussing her depression and the possibility of 
failing out of law school due to hospitalization. She continued 
to endorse suicidal ideation with thoughts of drowning in the 
___, but did not indicate any intent. She denied any 
desire to perform self-injurious behavior. She denied any 
auditory or visual hallucinations. She initially was unsure 
about whether to sign in voluntarily, but ultimately decided to.

During hospitalization, ___ was active and visible in the 
milieu, attended groups, and was engagable in individual 
therapy. She discussed at length her difficulty with emotions, 
her history of having doubts about law school, and her regrets 
at not pursuing dance professionally. Her home Lexapro 10mg dose 
was slowly increased to 20mg PO QD, without any stated side 
effects. She reported an improvement in mood, and her suicidal 
thoughts became "very rare." She also received Ativan 0.5mg PO 
BID as needed for anxiety, with good effect, and Ativan 0.5mg PO 
QHS for sleep with good effect. She later signed a three-day 
notice, alerting the staff that she felt she was ready to leave 
the hospital. She was felt to be safe at this time for 
discharge.
 
On discharge, ___ reported "less deeply depressed" mood, 
with euthymic affect, denial of suicidal ideation, intent, or 
plan, and no desire to self-injure. She plans to return to 
school to continue law school, and is working with her ___ of 
students, parents, and outpatient psychiatrist to manage her 
symptoms during this time. 

SAFETY: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS:
Patient did not have any chronic or acute medical conditions 
during this hospitalization.

PSYCHOSOCIAL:
#) MILIEU/GROUPS: The patient was visible in the milieu and 
attended groups daily. She ate meals in the day room, and 
conversed with peers. She never engaged in any unsafe behaviors. 
She slept well and cooperated with unit rules.

#) FAMILY CONTACTS: ___ mom visited her on the unit 
several times during her hospitalization. Their meetings 
reportedly went well. ___ stated that she felt supported 
and encouraged by her mom, and her plan to stay with her for a 
week following discharge.

#) COLLATERAL: 
Collateral was obtained from ___ outpatient psychiatrist 
Dr. ___ stated that ___ has missed a "tremendous" 
amount of school this term, and has been given a "warning of 
exclusion" letter from her two of her professors, which 
essentially means that she is failing two classes. The ___ of 
Student has been advocating for her and has given her two 
options--to take a leave of absence or to continue and take 
classes over the summer. She also reported that she did not know 
of a therapist who would be comfortable taking on ___ as a 
patient in her current acuity. Also stated that Dr. ___ 
___ that when she has gone up on her
meds in the past, she has become more suicidal. States that she 
thinks this is more of a coincidence in overlapping with her 
intermittent acute suicidality than a result of the increase. 
Hasn't tried an adjunctive before.

LEGAL STATUS: Patient signed a Conditional Voluntary agreement 
upon presentation to the inpatient unit. She then decided to 
sign a three-day notice, which was granted.

RISK ASSESSMENT: 
This patient is not currently abusing substances, is not 
suicidal or homicidal, is feeling well and is euthymic, and 
participatory in the milieu, all of which indicate a low  
immediate risk of harm.
Static risk factors include:
-Chronic and severe mental illness, prior suicidal ideation, 
impulsivity, self-injurious behavior
Modifiable risk factors include:
-active suicidal ideation, major depressive episode
We modified these risks by increasing the patient's 
antidepressant, communicating 
with the  patient's outpatient psychiatrist and connecting her 
with further outpatient care.
Protective factors include:
-strong connections to family, lack of financial stressors, 
help-seeking behavior, medication adherence
Current risk is moderate for intentional self-harm given that 
the patient denies suicidal ideation, intent, and plan, is 
accepting of treatment, currently denies any suicidal thinking 
or desire to self-injure, and is future oriented with plans to 
continue law school. 

INFORMED CONSENT:
I discussed the indications for, intended benefits of, and 
possible side effects of this medication, and risks and benefits 
of possible alternatives, including not taking the medication, 
with the patient. We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to take the medication.

PROGNOSIS:
The patient's prognosis is good, due to the fact that she is 
medication adherent, connected to outpatient care, denies any 
suicidal thought, intent, or plan, and is fauture-oriented with 
plan to return to law school. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1. Escitalopram Oxalate 20 mg PO QHS 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
 Neurological:
    *station and gait: within normal limits
    *tone and strength: within normal limits
  *Appearance: well-nourished, moderately groomed ___
female appearing stated age
  Behavior: cooperative with interview, at times superficially
cheerful
  *Mood and Affect: 'less deeply depressed,' affect is 
congruent,
euthymic
  *Thought process: linear, goal-directed
  *Thought Content: denies suicidal thought, intent, or plan; 
denies homicidal ideation, denies auditory or visual 
hallucinations
  *Judgment and Insight: limited/limited

  Cognition:
    *Attention, *orientation, and executive function: AAOx3
    *Memory: intact
    *Fund of knowledge: above average
    *Speech: normal rate, volume, prosody
    *Language: fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___